US06624159B2
2-Benzyl-N-(4-chlorobenzyl)-9-(4-morpholinylmethyl)-3,7-dioxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]quinazoline-6-carboxamide [AW.1]
A solution of 1,1′-carbonyldiimidazole (82 mg) in NMP (2.0 mL) is added over 15 min to a solution of 8-((benzylamino)methyl)-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (Preparation 29, 106 mg) in NMP (6 mL). After an additional 15 min, the solvent is removed under reduced pressure and the residual solid is triturated with methanol to afford 93 mg of the title compound. Physical characteristics: M.p. 201-204° C.; 1H NMR (CDCl3) δ2.44, 3.58, 3.70, 4.67, 4.73, 4.87, 7.3-7.45, 7.51, 8.19, 9.90, 10.1; Anal. Found: C, 66.67; H, 5.31; N, 9.99; Cl, 6.35.

reactant | 1,1′-carbonyldiimidazole | 82 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 8-((benzylamino)methyl)-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 106 mg | C(C1=CC=CC=C1)NCC=1C=C(C=C2C(=C(C=NC12)C(=O)NCC1=CC=C(C=C1)Cl)O)CN1CCOCC1 | C30H31ClN4O3
solvent | NMP | 2.0 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 6 mL | CN1CCCC1=O | C5H9NO
product | 2-Benzyl-N-(4-chlorobenzyl)-9-(4-morpholinylmethyl)-3,7-dioxo-2,3-dihydro-1H,7H-pyrido[3,2,1-ij]quinazoline-6-carboxamide | 93 mg | C(C1=CC=CC=C1)N1C(N2C3=C(C=C(C=C3C1)CN1CCOCC1)C(C(=C2)C(=O)NCC2=CC=C(C=C2)Cl)=O)=O | C31H29ClN4O4
